US06518423B1
10-(Methoxycarbonyl)-8-(tert-butyldimethylsiloxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine
4.0 g of 8-(tert-butyldimethylsiloxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine was subjected to the procedure described in Example 1570 but using methyl chlorocarbonate instead of acetyl chloride to thereby give 2.5 g of the title compound as a yellow oily substance.

reactant | 8-(tert-butyldimethylsiloxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 4.0 g | O([Si](C)(C)C(C)(C)C)CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C17H23N3OSSi
reactant | methyl chlorocarbonate | C(OC)(=O)Cl | C2H3ClO2
product | 10-(Methoxycarbonyl)-8-(tert-butyldimethylsiloxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 2.5 g | COC(=O)N1C2=C(SC3=C1C=C(C=C3)CO[Si](C)(C)C(C)(C)C)N=CC=N2 | C19H25N3O3SSi
